US08809530B1
3 -(4-(5-chloro-2 -methylphenyl)piperazin-1-yl)propan-1-amine (10)
A solution of 2-(3-(4-(5-chloro-2-methylphenyl)piperazin-1-yl)propyl)isoindoline-1,3-dione (397 mg, 1.0 mmol) and hydrazine monohydrate (52 mg, 1.04 mmol) in ethanol (5 mL) was heated at 70° C. for 12 h. After the reaction cooled to room temperature, the solid was filtered off, and filtrate is evaporated to give the title compound, used without further purification.

reactant | 2-(3-(4-(5-chloro-2-methylphenyl)piperazin-1-yl)propyl)isoindoline-1,3-dione | 1.0 mmol, 397 mg | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)C | C22H24ClN3O2
reactant | hydrazine monohydrate | 1.04 mmol, 52 mg | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3 -(4-(5-chloro-2 -methylphenyl)piperazin-1-yl)propan-1-amine | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCN)C | C14H22ClN3
